US05552558
A. 2-Isopropyl-4-(((N-cyclopropyl)amino)methyl)thiazole.
A solution of 1.8 g (10.2 mmol) of 4-(chloromethyl)-2-isopropylthiazole hydrochloride in 10 ml of chloroform was added dropwise with stirring to 10 ml of cyclopropylamine. The resulting solution was stirred at ambient temperature for 16 h, concentrated in vacuo, and purified by silica gel chromatography using 5% methanol in chloroform to provide 0.39 g (19%) of the desired compound. 1H NMR (DMSO-d6)δ0.24 (m, 2H), 0.35 (m, 2H),1.30 (d, J=7 Hz, 6H), 2.10 (tt, J=12, 3 Hz, 1H), 3.23 (heptet, J=7 Hz, 1H), 3.77 (s, 2H), 7.21 (s, 1H). Mass spectrum: (M+H)+=197.

reactant | 4-(chloromethyl)-2-isopropylthiazole hydrochloride | 10.2 mmol, 1.8 g | Cl.ClCC=1N=C(SC1)C(C)C
reactant | cyclopropylamine | 10 ml | C1(CC1)N | C3H7N
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Isopropyl-4-(((N-cyclopropyl)amino)methyl)thiazole | 0.39 g, 19% | C(C)(C)C=1SC=C(N1)CNC1CC1 | C10H16N2S
